US08604029B2
To a stirred suspension of sodium hydride (0.2 g of 50% in mineral oil, 4.2 mmol) in THF was added (4,4-dimethyl-oxazolidin-2-ylidene)-(4-nitro-phenyl)-amine (1 g, 4.25 mmol), stirred for 30 min at r.t., followed by addition of iodomethane (0.71 g, 5.0 mmol). After a further 6 hours at r.t. the reaction was quenched with water and extracted with ethyl acetate. The extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue which was purified by column chromatography over silica gel (60-120 mesh) using 15% ethyl acetate/petroleum ether as eluent to give (4-nitro phenyl)-(3,4,4-trimethyl-oxazolidin-2-ylidene)-amine (0.7 g, 66%).

reactant | sodium hydride | 4.2 mmol, 0.2 g | [H-].[Na+]
reactant | (4,4-dimethyl-oxazolidin-2-ylidene)-(4-nitro-phenyl)-amine | 4.25 mmol, 1 g | CC1(NC(OC1)=NC1=CC=C(C=C1)[N+](=O)[O-])C | C11H13N3O3
reactant | iodomethane | 5.0 mmol, 0.71 g | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | (4-nitro phenyl)-(3,4,4-trimethyl-oxazolidin-2-ylidene)-amine | 0.7 g, 66% | [N+](=O)([O-])C1=CC=C(C=C1)N=C1OCC(N1C)(C)C | C12H15N3O3
